US07696229B2
Tin (II) chloride (2 g, 9.35 mmol) was added to a solution of 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-6-nitro-1-(phenylsulfonyl)-1H-indole (100 mg, 0.25 mmol) in methanol (30 mL). The resulting solution was stirred for 2 hours at reflux temperature After cooling to room temperature, the mixture was concentrated by evaporation to provide 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1-(phenylsulfonyl)-1H-indol-6-amine, which was used in the next stage without further purification.

reactant | Tin (II) chloride | 9.35 mmol, 2 g | [Sn](Cl)Cl
reactant | 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-6-nitro-1-(phenylsulfonyl)-1H-indole | 0.25 mmol, 100 mg | CN1CCC(=CC1)C1=CN(C2=CC(=CC=C12)[N+](=O)[O-])S(=O)(=O)C1=CC=CC=C1 | C20H19N3O4S
solvent | methanol | 30 mL | CO | CH4O
product | 3-(1-methyl-1,2,3,6-tetrahydropyridin-4-yl)-1-(phenylsulfonyl)-1H-indol-6-amine | CN1CCC(=CC1)C1=CN(C2=CC(=CC=C12)N)S(=O)(=O)C1=CC=CC=C1 | C20H21N3O2S
